US08110573B2
A mixture of [3-(2-amino-4-morpholin-4-ylmethyl-phenylcarbamoyl)-1H-pyrazol-4-yl]-carbamic acid tert-butyl ester (12.0 g, 28.8 mmol) and 2M aqueous HCl solution (50 mL) was heated at 85° C. for 14 h, then allowed to cool to ambient temperature. Solid Na2CO3 was carefully added until mixture was pH 8.5 and solution was saturated. A dark coloured gummy liquid was formed. The mixture was allowed to settle and the solvent decanted. To the remaining residue was added EtOH (60 mL), the mixture heated at reflux for 1 h and then hot filtered, washing with EtOH (2×20 mL), to remove inorganic residues. The filtrate was reduced in vacuo to give a glassy solid which was then stirred in Et2O (60 mL) for 1 h and the resultant purple coloured powder collected by filtration and dried in vacuo to give 3-(5-morpholin-4-ylmethyl-1H-benzoimidazol-2-yl)-1H-pyrazol-4-ylamine (6.8 g, 80%, ˜90% purity).

reactant | [3-(2-amino-4-morpholin-4-ylmethyl-phenylcarbamoyl)-1H-pyrazol-4-yl]-carbamic acid tert-butyl ester | 28.8 mmol, 12.0 g | C(C)(C)(C)OC(NC=1C(=NNC1)C(NC1=C(C=C(C=C1)CN1CCOCC1)N)=O)=O | C20H28N6O4
reactant | HCl | 2M, 50 mL | Cl | ClH
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | Et2O | 60 mL | CCOCC | C4H10O
product | 3-(5-morpholin-4-ylmethyl-1H-benzoimidazol-2-yl)-1H-pyrazol-4-ylamine | 6.8 g | N1(CCOCC1)CC1=CC2=C(NC(=N2)C2=NNC=C2N)C=C1 | C15H18N6O
